US04999436
3-Hydroxy-2-(4'-methoxyphenyl)-5-phenylthiophene (200 mg, 0.71 mmol) was dissolved in 2.0 mL of pyridine and treated with acetic anhydride (0.50 mL, 5.3 mmol). The solution was stirred 4 hours at 25° C., and then most of the acetic anhydride and pyridine were removed on a rotary evaporator at reduced pressure. The residue was dissolved in 40 mL of ethyl acetate and washed with 2×15 mL of 2N aqueous hydrochloric acid, 15 mL of saturated aqueous sodium bicarbonate, and 15 mL of saturated aqueous sodium chloride. The solution was dried over sodium sulfate, decanted, and evaporated. The residual oil (224 mg) began to crystallize upon standing overnight. This was combined with other material prepared by the same method and recrystallized twice from 3-4 mL of 7% ethyl acetate in hexane to give 3-acetoxy-2-(4'-methoxyphenyl)-5-phenylthiophene as very pale pink needles, m.p. 81°-82° C.

reactant | 3-Hydroxy-2-(4'-methoxyphenyl)-5-phenylthiophene | 0.71 mmol, 200 mg | OC1=C(SC(=C1)C1=CC=CC=C1)C1=CC=C(C=C1)OC | C17H14O2S
reactant | acetic anhydride | 5.3 mmol, 0.50 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 2.0 mL | N1=CC=CC=C1 | C5H5N
product | 3-acetoxy-2-(4'-methoxyphenyl)-5-phenylthiophene | C(C)(=O)OC1=C(SC(=C1)C1=CC=CC=C1)C1=CC=C(C=C1)OC | C19H16O3S
